US06274536B1
3-(3,5-Dichloro-2-pyridyl)-4-chloro-5-trifluoromethyl-1-methyl-[1H]-pyrazole
2.0 g of 3-(3,5-dichloro-2-pyridyl)-5-trifluoromethyl-1-methyl-[1H]-pyrazole (Example P11) are introduced into glacial acetic acid at 40° C. and, with stirring, chlorine gas is slowly passed over the solution. The reaction can be monitored analytically by means of thin-layer chromatography (silica gel 60 F254, eluant: n-hexanelethyl acetate 4/1, UV). Once starting material can no longer be detected, glacial acetic acid is removed in vacuo and the residue is partitioned between dilute aqueous sodium hydroxide solution and ethyl acetate. After extraction by shaking, the separated organic phase is washed with brine, dried over sodium sulfate, filtered and concentrated. The yellow oil is purified by means of flash chromatography (silica gel; eluant: n-hexane/ethyl acetate 5/1). 1.6 g of of the desired compound are obtained in the form of a yellow oil (70% of the theoretical yield).

reactant | 3-(3,5-dichloro-2-pyridyl)-5-trifluoromethyl-1-methyl-[1H]-pyrazole | 2.0 g | ClC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)C(F)(F)F)C | C10H6Cl2F3N3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | chlorine | ClCl | Cl2
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(3,5-Dichloro-2-pyridyl)-4-chloro-5-trifluoromethyl-1-methyl-[1H]-pyrazole | 90% yield | ClC=1C(=NC=C(C1)Cl)C1=NN(C(=C1Cl)C(F)(F)F)C | C10H5Cl3F3N3
